US07566699B2
3-[2-(4-Carbamoylphenyl)ethyl]-4-hydroxybenzofuran
To a mixture of 3-[2-(4-carboxyphenyl)ethyl]-4-hydroxybenzofuran (80 mg), ammonium hydrogen carbonate (90 mg) and pyridine (0.091 mL) in N,N-dimethylformamide (3 mL) was added ditert-butyl dicarbonate (0.25 g), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (5 mL). To the solution was added sodium methoxide (28% methanol solution, 0.1 mL), and the mixture was stirred at 50° C. for 3 hours. The reaction mixture was cooled to room temperature. To the mixture was added 1 mol/L hydrochloric acid (0.52 mL), and the resulting mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=30/1) and VARIAN BOND ELUT-SAX (eluent: methanol) successively to give the title compound (50 mg).

reactant | 3-[2-(4-carboxyphenyl)ethyl]-4-hydroxybenzofuran | 80 mg | C(=O)(O)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C17H14O4
reactant | ammonium hydrogen carbonate | 90 mg | C(O)([O-])=O.[NH4+]
reactant | ditert-butyl dicarbonate | 0.25 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 0.091 mL | N1=CC=CC=C1 | C5H5N
product | 3-[2-(4-Carbamoylphenyl)ethyl]-4-hydroxybenzofuran | 50 mg | C(N)(=O)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C17H15NO3
